US09120822B2
Preparation of 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid [trans-4-(6-methoxy-4-methyl-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-amide
The titled compound is prepared as an orange semisolid following Scheme 5 and in analogy to Example 27 using trans-4-(6-methoxy-4-methyl-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexylamine and 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid as starting materials.

reactant | trans-4-(6-methoxy-4-methyl-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexylamine | COC=1N=C2C=3N(C(COC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)N)C | C18H24N4O2
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid | O=C1CSC2=C(N1)C=C(C=C2)C(=O)O | C9H7NO3S
product | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid [trans-4-(6-methoxy-4-methyl-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-amide | COC=1N=C2C=3N(C(COC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)NC(=O)C=1C=CC2=C(NC(CS2)=O)C1)C | C27H29N5O4S
